US06403595B1
4-(Naphthalene-2-sulfonyl)-2-piperazinone
In THF (30 ml) and DMF (30 ml) was dissolved 2-piperazinone (3.00 g), and to the solution was added triethylamine (5.02 ml). Under ice-cooling, to the mixture was added dropwise a solution of naphthalene-2-sulfonyl chloride (8.16 g) in THF (30 ml), and the mixture was stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure. The residue was washed with sodium hydrogen carbonate solution, water and ethanol to give pale brown crystals of the title compound (7.15 g).

reactant | 2-piperazinone | 3.00 g | N1C(CNCC1)=O | C4H8N2O
reactant | triethylamine | 5.02 ml | C(C)N(CC)CC | C6H15N
reactant | naphthalene-2-sulfonyl chloride | 8.16 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(Naphthalene-2-sulfonyl)-2-piperazinone | 7.15 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(NCC1)=O | C14H14N2O3S
